US07405300B2
A solution of 2-[1,4]diazepan-1-yl-1-phenyl-1H-indole-3-carboxaldehyde (438 mg, 1.37 mmol), epibromohydrin (188 mg, 1.37 mmol) and potassium carbonate (758 mg, 5.49 mmol) in acetonitrile (20 mL) is refluxed for 2.5 hr. The reaction mixture is cooled, the solvent is removed and the residue is purified by chromatography eluting with dichloromethane-1 to 5% methanol. Fractions containing product are combined and concentrated to afford 2-(4-oxiranylmethyl-[1,4]diazepan-1-yl)-1-phenyl-1H-indole-3-carboxaldehyde (41% yield) as a yellow solid. LC/MS: 376 (M+H), RT 2.65 min; NMR (CDCl3): 10.28 (1H, s), 8.26 (1H, d), 7.43-7.65 (3H, m), 7.17-7.42 (3H, m), 7.13(1H, t), 6.96 (1H, d), 3.49 (4H, m), 3.03 (1H, m), 2.56-2.86 (4H, m), 2.30-2.50 (2H, m), 1.74(2H, m), 1.56 (2H, s).

reactant | 2-[1,4]diazepan-1-yl-1-phenyl-1H-indole-3-carboxaldehyde | 1.37 mmol, 438 mg | N1(CCNCCC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C20H21N3O
reactant | epibromohydrin | 1.37 mmol, 188 mg | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | 5.49 mmol, 758 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-(4-oxiranylmethyl-[1,4]diazepan-1-yl)-1-phenyl-1H-indole-3-carboxaldehyde | 41% yield | O1C(C1)CN1CCN(CCC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C23H25N3O2
